US07462639B2
To a solution of 5-amino-3,3-diethyl-1-isopropyl-6-nitro-1,3-dihydro-indol-2-one (1.9 g, 6.52 mmol) in methanol/tetrahydrofuran (THF) (1:1, 80 ml) palladium on charcoal (10%, 1.2 g) was added and the mixture hydrogenated at room temperature for 4 h. After filtration the solvent was evaporated and the residue triturated with iso-hexane to yield 1.7 g 5,6-diamino-3,3-diethyl-1-isopropyl-1,3-dihydro-indol-2-one (6.50 mmol, 99%).

reactant | 5-amino-3,3-diethyl-1-isopropyl-6-nitro-1,3-dihydro-indol-2-one | 6.52 mmol, 1.9 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])C(C)C)=O)(CC)CC | C15H21N3O3
solvent | methanol tetrahydrofuran | 80 ml | CO.O1CCCC1
catalyst | palladium on charcoal | 1.2 g | [Pd] | Pd
product | 5,6-diamino-3,3-diethyl-1-isopropyl-1,3-dihydro-indol-2-one | 6.50 mmol, 1.7 g, 99% | NC=1C=C2C(C(N(C2=CC1N)C(C)C)=O)(CC)CC | C15H23N3O
